US05858995
A mixture of 7-amino-2-ethyl-3-methylbenzo[b]furan (858 mg), 2,6-dichlorobenzoyl chloride (1.23 g) and triethylamine (1.23 g) in 1,2-dichloroethane (17 ml) was stirred for 3 hours at 70° C. The mixture was diluted with dichloromethane, washed with diluted hydrochloric acid and brine, dried over sodium sulfate, and evaporated in vacuo to give a solid. The residue solid was crystallized from a mixture of ethanol (20 ml) and water (2 ml) to give 7-(2,6-dichlorobenzoylamino)-2-ethyl-3-methylbenzo[b]furan (610 mg).

reactant | 7-amino-2-ethyl-3-methylbenzo[b]furan | 858 mg | NC1=CC=CC2=C1OC(=C2C)CC | C11H13NO
reactant | 2,6-dichlorobenzoyl chloride | 1.23 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | triethylamine | 1.23 g | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 17 ml | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-(2,6-dichlorobenzoylamino)-2-ethyl-3-methylbenzo[b]furan | 610 mg | ClC1=C(C(=O)NC2=CC=CC3=C2OC(=C3C)CC)C(=CC=C1)Cl | C18H15Cl2NO2
